US05814654
Ethyl 1,3,4,5-tetrahydro-benz[cd]indole-2-carboxylate (0.40 g, 1.74 mmol) was added to a suspension of 60% sodium hydride (0.077 g, 1.92 mmol) in N,N-dimethylformamide (5 ml), followed by stirring at room temperature for 30 minutes. Then, benzyl bromide (0.36 g, 2.09 mmol) was added and the resulting mixture was stirred for 1.5 hours. Thereafter, the same after-treatment as in Reference Example 1 was carried out to obtain an oil of ethyl 1,3,4,5-tetrahydro -1benzyl-benz[cd]indole-2-carboxylate. 1 Hnmr (CDC13) δ:

reactant | Ethyl 1,3,4,5-tetrahydro-benz[cd]indole-2-carboxylate | 1.74 mmol, 0.40 g | N1C(=C2C=3C(=CC=CC13)CCC2)C(=O)OCC | C14H15NO2
reactant | sodium hydride | 1.92 mmol, 0.077 g | [H-].[Na+]
reactant | benzyl bromide | 2.09 mmol, 0.36 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 1,3,4,5-tetrahydro -1benzyl-benz[cd]indole-2-carboxylate | C(C1=CC=CC=C1)N1C(=C2C=3C(=CC=CC13)CCC2)C(=O)OCC | C21H21NO2
